US07989457B2
Step B. 3-{4-[1-(4′-Trifluoromethylbiphenyl-4-yl)propoxy]benzoylamino}propionic acid (Isomer 1)
A solution of ethyl 3-{4-[1-(4′-trifluoromethylbiphenyl-4-yl)propoxy]benzoylamino}propionate (Isomer 1) (51 mg, 0.105 mmol) in THF (1.05 mL) is treated with 5 N NaOH (0.106 mL) and shaken at RT overnight. The reaction is neutralized with 1 N HCl (0.53 mL), and extracted into dichloromethane (3×). The combined organic layers are dried and concentrated, giving the title compound (10.1 mg).

reactant | ethyl 3-{4-[1-(4′-trifluoromethylbiphenyl-4-yl)propoxy]benzoylamino}propionate | 0.105 mmol, 51 mg | FC(C1=CC=C(C=C1)C1=CC=C(C=C1)C(CC)OC1=CC=C(C(=O)NCCC(=O)OCC)C=C1)(F)F | C28H28F3NO4
reactant | NaOH | 5 N, 0.106 mL | [OH-].[Na+]
reactant | HCl | 1 N, 0.53 mL | Cl | ClH
solvent | THF | 1.05 mL | C1CCOC1 | C4H8O
product | 3-{4-[1-(4′-Trifluoromethylbiphenyl-4-yl)propoxy]benzoylamino}propionic acid | 10.1 mg | FC(C1=CC=C(C=C1)C1=CC=C(C=C1)C(CC)OC1=CC=C(C(=O)NCCC(=O)O)C=C1)(F)F | C26H24F3NO4
